US04698340
The mixture of 5-acetyl-6-methyl-4-(4-nitrophenyl)-2-phenyl-pyrimidine (1.5 g) and sodium borohydride (170 mg) in methanol (15 ml) and tetrahydrofuran (20 ml) was stirred for 2 hours at 5°-7° C. with ice cooling. The mixture was extracted with chloroform (100 ml) and 10% aqueous hydrochloric acid (50 ml). The separated organic layer was washed successively with saturated sodium hydrogen carbonate, saturated aqueous sodium chloride, dried over magnesium sulfate and evaporated in vacuo. The residue is recrystallized from ether to give 5-(1-hydroxyethyl)-6-methyl-4-(4-nitrophenyl)-2-phenylpyrimidine (0.3 g).

reactant | 5-acetyl-6-methyl-4-(4-nitrophenyl)-2-phenyl-pyrimidine | 1.5 g | C(C)(=O)C=1C(=NC(=NC1C)C1=CC=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C19H15N3O3
reactant | sodium borohydride | 170 mg | [BH4-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 5-(1-hydroxyethyl)-6-methyl-4-(4-nitrophenyl)-2-phenylpyrimidine | 0.3 g | OC(C)C=1C(=NC(=NC1C)C1=CC=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C19H17N3O3
